US08877774B2
Step 1. (4-((1,3-Dioxolan-2-yl)methyl)phenyl)methanol
To a cooled (0° C.) solution of 4-((1,3-dioxolan-2-yl)methyl)benzoic acid (1.02 g, 4.92 mmol) in anhydrous THF (63.5 mL), a solution of borane dimethylsulfide complex (2.0 M in THF, 12.29 mL, 24.59 mmol) was added dropwise. The reaction mixture was stirred at this temperature for 5 minutes and then the coolant removed. The reaction mixture was stirred at RT for 16 hours. The reaction mixture was cooled to 0° C. and methanol (1 mL) was added. The reaction mixture was diluted with water and saturated aqueous sodium hydrogen carbonate and then extracted with ethyl acetate (×2). The combined organic extracts were washed with brine, dried (magnesium sulphate) filtered, and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-50% ethyl acetate in iso-hexane to afford the title compound (0.936 g, 98%).

reactant | 4-((1,3-dioxolan-2-yl)methyl)benzoic acid | 4.92 mmol, 1.02 g | O1C(OCC1)CC1=CC=C(C(=O)O)C=C1 | C11H12O4
reactant | borane dimethylsulfide | 24.59 mmol, 2.0 M, 12.29 mL | CSC.B
solvent | THF | 63.5 mL | C1CCOC1 | C4H8O
product | (4-((1,3-Dioxolan-2-yl)methyl)phenyl)methanol | 0.936 g, 98% | O1C(OCC1)CC1=CC=C(C=C1)CO | C11H14O3
